US08859774B2
A suspension of isopropylmagnesium chloride (2M in tetrahydrofuran, 1.755 ml, 3.51 mmol) in dry ether (4.5 mL) at 0° C. was treated dropwise with a solution of 4-bromo-2-(trimethylsilyl)thiazole (0.829 g, 3.51 mmol) in dry ether (2.5 mL) and the resulting suspension stirred at 0° C. for 1 hour. The suspension was then treated dropwise with a solution of (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate (0.5 g, 1.17 mmol) in dry ether:tetrahydrofuran (4:1, 5 mL total volume) and the resulting suspension stirred at 0° C. for 15 minutes. The reaction mixture was then allowed to warm to room temperature, and the solution stirred for a further 3 hours. The reaction mixture was cooled to 0° C., and ice water (50 mL) added dropwise. The aqueous layer was extracted with ethyl acetate (3×50 mL) and the combined organic extracts washed with brine (50 mL) and dried over magnesium sulphate. The solvent was removed to give an orange oil. This was dissolved in acetonitrile (12 mL) and treated dropwise with 1M aqueous HCl (1171 μl, 1.171 mmol) and the resulting solution stirred at room temperature for 1.5 hours. The reaction was diluted with ethyl acetate (150 mL) and washed sequentially with brine (50 mL), saturated aqueous sodium hydrogen carbonate solution (50 mL), and further brine (50 mL). The organic layer was dried over magnesium sulphate and the solvent removed. The crude product was purified by column chromatography on silica gel (gradient: 5-95% ethyl acetate in isohexane) to afford (R)-tert-butyl 1-(4-fluorophenyl)-4a-(thiazole-4-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate (238 mg) as a pale yellow gum. LCMS (Method F, ES-API): RT 2.55 min, m+H=481.2.

reactant | isopropylmagnesium chloride | 3.51 mmol, 2M, 1.755 ml | C(C)(C)[Mg]Cl
reactant | 4-bromo-2-(trimethylsilyl)thiazole | 3.51 mmol, 0.829 g | BrC=1N=C(SC1)[Si](C)(C)C | C6H10BrNSSi
reactant | (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate | 1.17 mmol, 0.5 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)C(=O)OC(C)(C)C | C23H26FN3O4
reactant | HCl | 1.171 mmol, 1M, 1171 μl | Cl | ClH
solvent | ether | 4.5 mL | CCOCC | C4H10O
solvent | ether | 2.5 mL | CCOCC | C4H10O
solvent | ether tetrahydrofuran | 5 mL | CCOCC.O1CCCC1
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | (R)-tert-butyl 1-(4-fluorophenyl)-4a-(thiazole-4-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 238 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2N=CSC2)C(=O)OC(C)(C)C | C25H25FN4O3S
